US06689779B2
Preparation of 2-(4-Hydroxy-piperidin-1-yl-5-bromopyridine
In 100 ml of 1-methyl-2-pyrrolidone was dissolved 10 g of 2,5-dibromopyridine which was then added with 5.2 g of 4-hydroxypiperidine, along with 17.5 g of potassium carbonate at room temperature. Reaction was conducted at 100° C. for 3 hours with stirring. After completion of the reaction, the same post-treatment as in Preparation Example 13 was carried out to obtain the title compound. 9 g.

reactant | 2,5-dibromopyridine | 10 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | 4-hydroxypiperidine | 5.2 g | OC1CCNCC1 | C5H11NO
reactant | potassium carbonate | 17.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | 1-methyl-2-pyrrolidone | 100 ml | CN1C(CCC1)=O | C5H9NO
product | 4-Hydroxy-piperidin-1-yl-5-bromopyridine | OC1CCN(CC1)C1=NC=C(C=C1)Br | C10H13BrN2O
